US07910613B2
70: 3-Methyl-N-[5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-butyramide
Prepared from 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine and 3-methyl-butyryl chloride.

reactant | 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine | CC1=NC(=NO1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H10N4OS
reactant | 3-methyl-butyryl chloride | CC(CC(=O)Cl)C | C5H9ClO
product | 3-Methyl-N-[5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-butyramide | CC(CC(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C1=NOC(=N1)C)C | C17H18N4O2S
